US04634704
A mixture of 1.2 parts of 2-chloroethanamine, 4.1 parts of 1-(4-fluorophenylmethyl)-N-[1-(2-isothiocyanatoethyl)-4-piperidinyl]-1H-benzimidazol-2-amine, 2.2 parts of sodium carbonate and 135 parts of tetrahydrofuran was stirred for 3 hours at room temperature. The mixture was heated to reflux and stirring was continued overnight at reflux temperature. The reaction mixture was filtered and the filtrate was evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol, saturated with ammonia (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized twice from acetonitrile, yielding 1 part of N-[1-[2-[4,5-dihydro-2-thiazolyl)amino]ethyl]-4-piperidinyl]-1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-amine; mp. 147.6° C. (compound 99).

reactant | 2-chloroethanamine | ClCCN | C2H6ClN
reactant | 1-(4-fluorophenylmethyl)-N-[1-(2-isothiocyanatoethyl)-4-piperidinyl]-1H-benzimidazol-2-amine | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CCN=C=S | C22H24FN5S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-amine | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)N | C14H12FN3
